US07345056B2
To a stirring mixture of 9-benzyl-3-oxa-9-aza-bicyclo[3.3.1]nonan-7-one (1.1 g, 4.76 mmol) in EtOAc/HOAc (6 mL, 1:1, v/v) was added palladium on carbon (250 mg). The resulting mixture was stirred at room temperature under an atmosphere of hydrogen for 2 days. The suspension was filtered through Celite and the filtrate was concentrated under vacuum to give a quantitative yield of 3-oxa-9-aza-bicyclo[3.3.1]nonan-7-one as a yellow oil. This crude mixture was converted to the corresponding hydrochloric salt by the addition of HCl (3 mL, 1N aqueous HCl). The mixture was concentrated under reduced pressure and this process was repeated twice. Retention time (min)=0.231, Method [1], MS(ESI) 142.2 (M+H).

reactant | 9-benzyl-3-oxa-9-aza-bicyclo[3.3.1]nonan-7-one | 4.76 mmol, 1.1 g | C(C1=CC=CC=C1)N1C2COCC1CC(C2)=O | C14H17NO2
solvent | EtOAc HOAc | CCOC(=O)C.CC(=O)O
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
product | 3-oxa-9-aza-bicyclo[3.3.1]nonan-7-one | quantitative yield | C12COCC(CC(C1)=O)N2 | C7H11NO2
